US05352701
Under the conditions of example 2C, 1.8g of 5-(3,4-dihydroxyphenyl)-5-oxo-pentanoic acid methyl ester in 19 ml of dimethylformamide is reacted in the presence of 1.4g of lithium carbonate with 2.05g of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene, worked up and chromatographed. 470 mg of 5-(3-hydroxy-4[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-phenyl)-5-oxo-pentanoic acid methyl ester of melting point 78°-80° C. is obtained.

reactant | 5-(3,4-dihydroxyphenyl)-5-oxo-pentanoic acid methyl ester | 1.8g | COC(CCCC(=O)C1=CC(=C(C=C1)O)O)=O | C12H14O5
reactant | lithium carbonate | 1.4g | C([O-])([O-])=O.[Li+].[Li+]
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 2.05g | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
product | 5-(3-hydroxy-4[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-phenyl)-5-oxo-pentanoic acid methyl ester | 470 mg | COC(CCCC(=O)C1=CC(=C(C=C1)OCCCC\C=C\C1=CC=C(C=C1)OC)O)=O | C25H30O6
